US04939241
A mixture of benzyl O-(N-benzyloxycarbonyl-3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate (324 mg) and 10% palladium on activated carbon (400 mg) in acetic acid (5 ml) was hydrogenated at 40 psi under hydrogen at room temperature for 2 hours. The reaction mixture was filtered with Celite (filter aid, trade mark, made by Nakarai Chemicals) and concentrated and lyophilized to give O-(3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serine (150 mg).

reactant | benzyl O-(N-benzyloxycarbonyl-3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate | 324 mg | C(C1=CC=CC=C1)OC(=O)NC(C(O)C1=CC=CC=C1)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C29H27F3N2O8
catalyst | palladium on activated carbon | 400 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | O-(3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serine | 150 mg | C1(=CC=CC=C1)C(C(N)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)O | C14H15F3N2O6
